US04022897
To a solution of 6.6 g of potassium hydroxide (85%) and 10.3 g of sodium bromide in 100 ml of water and 150 ml of methanol is added, in portions, 17.6 g of 9-hydroxy-2-methyl-4H-pyrido[ 1,2-a]pyrimidin-4-one and the mixture stirred for 0.25 hours. To this is then added 19.6 g of 2,4-dichlorobenzyl chloride dissolved in 50 ml of 95% ethanol and the mixture stirred and refluxed for about 6 hours. The mixture is concentrated to dryness in vacuo and the residue is distributed between 500 ml of chloroform and 250 ml of water. Workup of the chloroform solution yields 9-[ (2,4-dichlorobenzyl)oxy]-2-methyl-4H-pyrido[ 1,2-a]-pyrimidin-4-one, m.p. 180°-182° after recrystallization from acetonitrile.

reactant | potassium hydroxide | 6.6 g | [OH-].[K+]
reactant | sodium bromide | 10.3 g | [Br-].[Na+]
reactant | 9-hydroxy-2-methyl-4H-pyrido[ 1,2-a]pyrimidin-4-one | 17.6 g | OC1=CC=CN2C1=NC(=CC2=O)C | C9H8N2O2
reactant | 2,4-dichlorobenzyl chloride | 19.6 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | water | 100 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 9-[ (2,4-dichlorobenzyl)oxy]-2-methyl-4H-pyrido[ 1,2-a]-pyrimidin-4-one | ClC1=C(COC2=CC=CN3C2=NC(=CC3=O)C)C=CC(=C1)Cl | C16H12Cl2N2O2
